US06403639B1
Under argon atmosphere, 5-acetoxy-4-t-butyl-2-hydroxy-6-methylbenzaldehyde was dissolved in 10 ml of anhydrous tetrahydrofuran, 10 ml of isopropylmagnesium bromide (0.76M in tetrahydrofuran) was added dropwise and the mixture was stirred at room temperature for 30 minutes. After the reaction was quenched with distilled water, the reaction mixture was combined with 1N hydrochloric acid and extracted with ethyl acetate. The organic layers were washed with saturated brine, then dried over anhydrous magnesium sulfate, and then concentrated to give 0.44 g of 4-acetoxy-5-t-butyl-2-(1-hydroxy-2-methylpropyl)-3-methylphenol as a yellow amorphous material (yield 100%).

reactant | 5-acetoxy-4-t-butyl-2-hydroxy-6-methylbenzaldehyde | C(C)(=O)OC=1C(=CC(=C(C=O)C1C)O)C(C)(C)C | C14H18O4
reactant | isopropylmagnesium bromide | 0.76M, 10 ml | C(C)(C)[Mg]Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-acetoxy-5-t-butyl-2-(1-hydroxy-2-methylpropyl)-3-methylphenol | 0.44 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)O)C(C(C)C)O)C | C17H26O4
